US03992351
1-Aminocyclohexanecarbonitrile
In a similar manner, 1-aminoisobutyronitrile was prepared by substituting for cyclohexanone cyanohydrin an equivalent amount of acetone cyanohydrin.

reactant | cyclohexanone cyanohydrin | C1CCC(CC1)(C#N)O | C7H11NO
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
product | 1-Aminocyclohexanecarbonitrile | NC1(CCCCC1)C#N | C7H12N2
